US07572820B2
B. N-[4-Cyano-2-methyl-3-(trifluoromethyl)phenyl]-2,2-dimethylpropanamide
A solution of N-[4-chloro-2-methyl-3-(trifluoromethyl)phenyl]-2,2-dimethylpropanamide (0.257 g, 0.875 mmol) in NMP (2.5 mL) was treated with copper cyanide (0.180 g, 2.01 mmol) and the resulting suspension was heated to 200° C. in a microwave for 14 h. The cooled reaction mixture was diluted with EtOAc and water and then filtered through a pad of celite. The filtrate was concentrated to a brown oil and then partitioned between Et2O and water. The aqueous portion was further extracted with Et2O and the combined organics were dried (Na2SO4), filtered, and concentrated to a brown foam. Trituration with hexanes/Et2O afforded the title compound (0.222 g) in good purity: MS (ES) m/z 285 (M+1).

reactant | N-[4-chloro-2-methyl-3-(trifluoromethyl)phenyl]-2,2-dimethylpropanamide | 0.875 mmol, 0.257 g | ClC1=C(C(=C(C=C1)NC(C(C)(C)C)=O)C)C(F)(F)F | C13H15ClF3NO
reactant | copper cyanide | 2.01 mmol, 0.180 g | [Cu](C#N)C#N
solvent | NMP | 2.5 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | N-[4-Cyano-2-methyl-3-(trifluoromethyl)phenyl]-2,2-dimethylpropanamide | 0.222 g | C(#N)C1=C(C(=C(C=C1)NC(C(C)(C)C)=O)C)C(F)(F)F | C14H15F3N2O
